US08557983B2
4-(1-isopropylpiperidin-4-ylamino)-3-nitrobenzenesulfonamide
A suspension of 4-chloro-3-nitrobenzenesulfonamide (1.664 g) triethylamine (2 mL) and 1-isopropylpiperidin-4-amine (1 g) in dioxane (10 mL) was stirred for 16 hours at 90° C. The reaction mixture was cooled to room temperature and the solid material was filtered off. The solid material was washed with 20% methanol/dichloromethane, and the mixture was dried under vacuum, to provide the product.

reactant | 4-chloro-3-nitrobenzenesulfonamide | 2 mL, 1.664 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | 1-isopropylpiperidin-4-amine | 1 g | C(C)(C)N1CCC(CC1)N | C8H18N2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(1-isopropylpiperidin-4-ylamino)-3-nitrobenzenesulfonamide | C(C)(C)N1CCC(CC1)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C14H22N4O4S
